US06696473B2
C. Preparation of 3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-phenylimino-thiazolidine-4-one
To an 8 mL vial was added 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate (100 mg, 0.18 mmol), aniline (16 μL, 0.18 mmol) and anhydrous MeCN (1 mL). After warming the mixture to 50° C., TEA (0.10 mL, 0.56 mmol) was added and continued heating the mixture at 50° C. for 12 h. After cooling to room temperature, the resulting precipitates were filtered under reduced pressure, washed with MeCN (2 mL) and dried under vacuum to yield the title product (22.3 mg, 29%) as a yellow solid. 1H-NMR (CDCl3): δ 7.59 (2H, m), 7.48 (1H, dd), 7.26-7.39 (6H, m), 7.10-7.18 (2H, m) 7.01 (3H, m), 5.16 (2H, s), 3.71 (3H, s); MS(ESI): 430 (MH+).

reactant | 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate | 0.18 mmol, 100 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C1=CC=CC=C1)N1[CH2+](SC(C1=O)=C1SC2=C(N1C)C=CC=C2)SC
reactant | aniline | 0.18 mmol, 16 μL | NC1=CC=CC=C1 | C6H7N
solvent | MeCN | 1 mL | CC#N | C2H3N
product | 3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-phenylimino-thiazolidine-4-one | 22.3 mg, 29% | C(C1=CC=CC=C1)N1C(SC(C1=O)=C1SC2=C(N1C)C=CC=C2)=NC2=CC=CC=C2 | C24H19N3OS2
